US09034866B2
2-Carbamoyl-9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-3-carboxylic acid (0.05 g) was reacted with 1-tetrahydro-2H-pyran-4-ylmethanamine similar to as described in Example 2 to afford 6 mg of 9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-N3-(tetrahydropyran-4-ylmethyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide following reverse phase hplc purification. MS (Q1) 471 (M)+. NMR (400 MHz, DMSO) δ 11.30 (t, J=5.4 Hz, 1H), 8.60 (d, J=8.4 Hz, 1H), 8.38 (s, 1H), 7.89 (s, 1H), 7.01 (d, J=10.6 Hz, 1H), 5.47 (s, 1H), 5.05-4.97 (m, 2H), 4.59-4.51 (m, 2H), 3.91-3.74 (m, 3H), 3.19 (t, J=6.0 Hz, 2H), 1.82-1.67 (m, 1H), 1.67-1.58 (m, 2H), 1.49 (s, 6H), 1.32-1.18 (m, 3H).

reactant | 2-Carbamoyl-9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-3-carboxylic acid | 0.05 g | C(N)(=O)C=1N=C2N(CCOC3=C2C=C(C(=C3)F)C#CC(C)(C)O)C1C(=O)O | C18H16FN3O5
reactant | 1-tetrahydro-2H-pyran-4-ylmethanamine | O1CCC(CC1)CN | C6H13NO
product | 9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-N3-(tetrahydropyran-4-ylmethyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide | 6 mg | FC1=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C(=O)NCC3CCOCC3)C=C1C#CC(C)(C)O | C24H27FN4O5
